US07511044B2
N-[4-(6-{4-[(1R)-1-(4-Fluoro-phenyl)-ethyl]-piperazine1-yl}-pyrimidin-4-yloxy)-benzothiazol-2-yl]-acetamide.
According to the procedures described in Example 21(b), 4-[(1R)-1-(4-fluoro-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester, Example 21(a), (0.48 g, 1.6 mmol) and N-[4-(6-chloro-pyrimidin-4-yloxy)-benzothiazol-2-yl]-acetamide, Example 1(b), (0.512 g, 1.6 mmol) provided the title compound as a white solid. M.p.: 243.8-245.9° C. MS (ESI, pos. ion.) m/z: 493 (M+1).

reactant | 4-[(1R)-1-(4-fluoro-phenyl)-ethyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)[C@H](C)C1=CC=C(C=C1)F | C17H25FN2O2
reactant | N-[4-(6-chloro-pyrimidin-4-yloxy)-benzothiazol-2-yl]-acetamide | ClC1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C13H9ClN4O2S
product | N-[4-(6-{4-[(1R)-1-(4-Fluoro-phenyl)-ethyl]-piperazine1-yl}-pyrimidin-4-yloxy)-benzothiazol-2-yl]-acetamide | FC1=CC=C(C=C1)[C@@H](C)N1CCN(CC1)C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O | C25H25FN6O2S
